US07220862B2
(R)-4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid {2-[1,4′]bipiperidinyl-1′-yl-2-oxo-1-[1-(2-trimethylsilanyl-ethanesulfonyl)-1H-indazol-5-ylmethyl]-ethyl}-amide
To a solution of (R)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-3-[1-(2-trimethylsilanyl-ethanesulfonyl)-1H-indazol-5-yl]-propionic acid (554 mg, 0.88 mmol) and N,N-diisopropylethylamine (0.62 mL, 3.54 mmol) in methylene chloride (20 mL) was added a solution of 4-piperidinopiperidine (164 mg, 0.97 mmol) and PyBOP® (460 mg, 0.88 mmol) in methylene chloride (15 mL). The reaction mixture was stirred for 16 h at room temperature. It was then concentrated to approximately 2 mL and subjected to flash column chromatography using methylene chloride/methanol/triethylamine (94:5:1) as eluent to give 599 mg (87%) of the title compound as a white solid. 1H-NMR (CD3CN, 300 MHz) δ 8.37 (s, 0.5H), 8.36 (s, 0.5H), 8.02–7.96 (m, 1H), 7.74 (s, 0.5H), 7.71 (s, 0.5H), 7.55–7.46 (m, 1H), 7.21–7.12 (m, 2H), 6.97–6.92 (m, 1H), 6.79 (d, J=8.1 Hz, 1H), 5.71 (t, J=8.1 Hz, 1H), 5.00 (dd, J=15.0, 8.1 Hz, 1H), 4.63–4.51 (m, 1H), 4.39–4.29 (m, 1H), 4.29 (s, 2H), 4.10–3.96 (m, 3H), 3.46–3.40 (m, 2H), 2.92–2.70 (m, 8H), 2.58–2.37 (m, 5H), 1.74–1.40 (m, 13H), 0.80–0.74 (m, 2H), −0.04 (s, 9H). Mass spec.: 778 (MH)+.

reactant | (R)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-3-[1-(2-trimethylsilanyl-ethanesulfonyl)-1H-indazol-5-yl]-propionic acid | 0.88 mmol, 554 mg | O=C1NC2=CC=CC=C2CN1C1CCN(CC1)C(=O)N[C@@H](C(=O)O)CC=1C=C2C=NN(C2=CC1)S(=O)(=O)CC[Si](C)(C)C | C29H38N6O6SSi
reactant | N,N-diisopropylethylamine | 3.54 mmol, 0.62 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-piperidinopiperidine | 0.97 mmol, 164 mg | N1(CCCCC1)C1CCNCC1 | C10H20N2
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | (R)-4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid {2-[1,4′]bipiperidinyl-1′-yl-2-oxo-1-[1-(2-trimethylsilanyl-ethanesulfonyl)-1H-indazol-5-ylmethyl]-ethyl}-amide | 599 mg, 87% | N1(CCCCC1)C1CCN(CC1)C([C@@H](CC=1C=C2C=NN(C2=CC1)S(=O)(=O)CC[Si](C)(C)C)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C39H56N8O5SSi
